US08809372B2
To a solution of 5-(4-fluorophenyl)thiazole (0.1 g, 0.558 mmol) in dry THF (8 mL) at −78° C., was slowly added n-1.6 M BuLi in hexanes (0.7 mL, 1.117 mmol), the reaction mixture was stirred for 30 minutes and 1-(pyridin-4-yl)ethanone (0.13 mL, 1.117 mmol) in THF (8 mL) was added. The reaction mixture was stirred for 2 hours at −78° C., the reaction mixture quenched with saturated NH4Cl solution (50 mL), extracted with EtOAc (2×50 mL), the organic layer washed with water (50 mL), dried over Na2SO4 and concentrated under reduced pressure to obtain crude product. The crude product was purified by preparative TLC (5% methanol in dichloromethane) to give 1-(5-(4-fluorophenyl) thiazol-2-yl)-1-(pyridin-4-yl)ethanol as off-white solid (35 mg, 22% yield) in 99.6% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 8.50 (br s, 1H), 8.03 (s, 1H), 7.66-7.63 (m, 2H), 7.53 (br s, 2H), 7.24 (t, 2H), 6.99 (s, 1H), 1.89 (s, 3H); LC-MS m/z calculated for [M+H]+ 301.07, found 301.4.

reactant | 5-(4-fluorophenyl)thiazole | 0.558 mmol, 0.1 g | FC1=CC=C(C=C1)C1=CN=CS1 | C9H6FNS
reactant | BuLi | 1.6 M | [Li]CCCC
reactant | 1-(pyridin-4-yl)ethanone | 1.117 mmol, 0.13 mL | N1=CC=C(C=C1)C(C)=O | C7H7NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-(5-(4-fluorophenyl) thiazol-2-yl)-1-(pyridin-4-yl)ethanol | 35 mg, 22% yield | FC1=CC=C(C=C1)C1=CN=C(S1)C(C)(O)C1=CC=NC=C1 | C16H13FN2OS
